US07855227B2
Step B 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)-amino]-acetic acid methyl ester
0.271 g (0.82 mmol) of [2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amine, 0.140 ml (1 mmol) of triethylamine and 0.155 g (0.89 mmol) of bromo-acetic acid methyl ester were dissolved in 5 ml of acetonitrile and the reaction was carried out at 70° C. overnight. Solvent was removed under vacuum, water was added to the residue and the product was extracted with ethyl acetate. The crude product was purified by flash chromatography (hexane/ethyl acetate 100:0→80:20 gradient v:v) and 0.32 g (97% yield) of the title compound was isolated as a yellow oil.

reactant | [2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amine | 0.82 mmol, 0.271 g | FC=1C=C(COC2=C(C=C(C=C2)CCNCC2CC2)OC)C=CC1 | C20H24FNO2
reactant | triethylamine | 1 mmol, 0.140 ml | C(C)N(CC)CC | C6H15N
reactant | bromo-acetic acid methyl ester | 0.89 mmol, 0.155 g | COC(CBr)=O | C3H5BrO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)-amino]-acetic acid methyl ester | 0.32 g, 97% yield | COC(CN(CC1CC1)CCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C23H28FNO4
